US04710507
6-Cyano-2-methoxyquinoline
A mixture of 6-bromo-2-methoxyquinoline (0.476 g), potassium cyanide (0.26 g), potassium hydroxide (0.05 mg) and palladium (II) acetate (0.067 g) in DMF (2.0 cm3) were heated at 135° for 3 hours. The cooled solution was then partitioned between water (20 cm3) and chloroform (50 cm3) and the aqueous phase was further extracted with chloroform (2×25 cm3). The combined and dried (MgSO4) extracts were evaporated in vacuo and the residue was chromatographed on silica (Merck "MK 60.9385") eluting with toluene to afford, after collection and evaporation of appropriate fractions, 6-cyano-2-methoxyquinoline, m.p. 163°-165°, (0.216 g).

reactant | 6-bromo-2-methoxyquinoline | 0.476 g | BrC=1C=C2C=CC(=NC2=CC1)OC | C10H8BrNO
reactant | potassium cyanide | 0.26 g | [C-]#N.[K+]
reactant | potassium hydroxide | 0.05 mg | [OH-].[K+]
solvent | DMF | 2.0 cm3 | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 0.067 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Cyano-2-methoxyquinoline | C(#N)C=1C=C2C=CC(=NC2=CC1)OC | C11H8N2O
